US07868177B2
A resealable reaction vial, under nitrogen, was charged with pyridin-3-amine (0.04 g, 42.50 mmol) and DMF (0.80 ml, 0.1 M). This was cooled to 0° C. and 60% wt in oil sodium hydride added (0.01 g, 42.50 mmol). The reaction mixture was stirred at 0° C. under a nitrogen atmosphere for 35 min. 5,6-Difluoro-N-(4-(3-(2-(methylsulfonyl)pyrimidin-4-yl)pyridin-2-yloxy)phenyl)-1H-benzo[d]imidazol-2-amine (0.04 g, 0.08 mmol) was added slowly to the mixture which was allowed to warm up to RT and stirred for 1 hr. The reaction mixture was heated to 60° C. and stirred for 1 hr. The reaction mixture was cooled to RT, then diluted with water and ethyl acetate. The layers were separated, the organic layer was dried over sodium sulfate and concentrated under reduced pressure to give oily residue, which was purified by silica prep plate (0.5% NH4OH/9.5% MeOH/Dichloromethane) followed by Gilson reverse phase chromatography (10% to 90% CH3CN/H2O/0.1% TFA) to afford 5,6-difluoro-N-(4-(3-(2-(pyridin-3-ylamino)pyrimidin-4-yl)pyridin-2-yloxy)phenyl)-1H-benzo[d]imidazol-2-amine as a yellow solid. MS m/z=509.0 [M+H]+. Calc'd for C27H18F2N8O: 508.48.

reactant | pyridin-3-amine | 42.50 mmol, 0.04 g | N1=CC(=CC=C1)N | C5H6N2
reactant | DMF | 0.1 M, 0.80 ml | CN(C)C=O | C3H7NO
reactant | sodium hydride | [H-].[Na+]
reactant | 5,6-Difluoro-N-(4-(3-(2-(methylsulfonyl)pyrimidin-4-yl)pyridin-2-yloxy)phenyl)-1H-benzo[d]imidazol-2-amine | 0.08 mmol, 0.04 g | FC1=CC2=C(NC(=N2)NC2=CC=C(C=C2)OC2=NC=CC=C2C2=NC(=NC=C2)S(=O)(=O)C)C=C1F | C23H16F2N6O3S
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5,6-difluoro-N-(4-(3-(2-(pyridin-3-ylamino)pyrimidin-4-yl)pyridin-2-yloxy)phenyl)-1H-benzo[d]imidazol-2-amine | FC1=CC2=C(NC(=N2)NC2=CC=C(C=C2)OC2=NC=CC=C2C2=NC(=NC=C2)NC=2C=NC=CC2)C=C1F | C27H18F2N8O
